US08252875B2
10 g of 2,6-diacetylpyridine (0.0613 mol), 9.54 g of 2-chloro-4,6-dimethylaniline (0.0613 mol) and 0.6 g of p-toluenesulfonic acid were heated under reflux on a water separator in 400 ml of toluene for 90 min. The solvent was distilled off completely and the residue was recrystallized from 50 ml of isopropanol. 5.66 g (0.019 mol) of 1-{6-[1-(2-chloro-4,6-dimethyl-phenylimino)ethyl]pyridin-2-yl}ethanone were obtained in a yield of 31%.

reactant | 2,6-diacetylpyridine | 0.0613 mol, 10 g | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | 2-chloro-4,6-dimethylaniline | 0.0613 mol, 9.54 g | ClC1=C(N)C(=CC(=C1)C)C | C8H10ClN
reactant | p-toluenesulfonic acid | 0.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 1-{6-[1-(2-chloro-4,6-dimethyl-phenylimino)ethyl]pyridin-2-yl}ethanone | 0.019 mol, 5.66 g, yield of 31% | ClC1=C(C(=CC(=C1)C)C)N=C(C)C1=CC=CC(=N1)C(C)=O | C17H17ClN2O
